US04725302
(a) Production of 2-(2-methylthioethoxy)-nitrobenzene
16.3 g of 2-hydroxyethylmethyl sulfide are added dropwise at 20°-25° C. to 8.5 g of a 55% NaH suspension in 150 ml of absolute tetrahydrofuran. The mixture is stirred for 1 hour at 20° C. and for 20 minutes at 40° C., and 25 g of 1-fluoro-2-nitrobenzene are subsequently added at 20° C. After the suspension has been stirred for 10 hours at 20° C., the tetrahydrofuran is distilled off in vacuo. Water is added to the residue, and extraction is repeatedly performed with ether. There is thus obtained an oil which can be used without further purification for the following hydrogenation stage.

reactant | 2-hydroxyethylmethyl sulfide | 16.3 g | OCCSC | C3H8OS
reactant | NaH | [H-].[Na+]
reactant | 1-fluoro-2-nitrobenzene | 25 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(2-methylthioethoxy)-nitrobenzene | CSCCOC1=C(C=CC=C1)[N+](=O)[O-] | C9H11NO3S
